US08580841B2
Step E: Preparation of (4-Cyclopentyl-3-(trifluoromethyl)phenyl)methanol.
To a solution of 4-cyclopentyl-3-(trifluoromethyl)benzaldehyde (0.25 g, 1.032 mmol) in ethanol (2.5 mL) was added sodium borohydride (0.047 g, 1.238 mmol) and the mixture was stirred in room temperature for 2 h. The mixture was quenched with water, acidified with 6N HCl, diluted with more water and extracted with CH2Cl2. The CH2Cl2 layer was washed with water, dried over Na2SO4, filtered and concentrated in vacuo to give the title compound (0.22 g). LCMS m/z=227.5 [M−H2O+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.54-1.72 (m, 4H), −1.77-1.89 (m, 2H), 1.93-2.05 (m, 2H), 3.19-3.28 (m, 1H), 4.52 (d, J=6 Hz, 2H), 5.28 (t, J=5.6 Hz, 1H), 7.52-7.6 (m, 3H).

reactant | 4-cyclopentyl-3-(trifluoromethyl)benzaldehyde | 1.032 mmol, 0.25 g | C1(CCCC1)C1=C(C=C(C=O)C=C1)C(F)(F)F | C13H13F3O
reactant | sodium borohydride | 1.238 mmol, 0.047 g | [BH4-].[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | (4-Cyclopentyl-3-(trifluoromethyl)phenyl)methanol | 0.22 g | C1(CCCC1)C1=C(C=C(C=C1)CO)C(F)(F)F | C13H15F3O
